US08685991B2
Part A. Preparation of ethyl 6-bromobenzo[b]thiophene-2-carboxylate
To a solution of 4-bromo-2-fluorobenzaldehyde (1.02 g, 4.83 mmol) in DMSO (4 mL), was added ethyl 2-mercaptoacetate (0.58 mL, 5.31 mmol), followed by Et3N (1.35 mL, 9.65 mmol), and the mixture was heated at 80° C. for 3 h. The resulting dark mixture was poured into water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with 10% NaCl, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give the title compound as a light yellow waxy solid (1.29 g, 94%).

reactant | 4-bromo-2-fluorobenzaldehyde | 4.83 mmol, 1.02 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | ethyl 2-mercaptoacetate | 5.31 mmol, 0.58 mL | SCC(=O)OCC | C4H8O2S
reactant | Et3N | 9.65 mmol, 1.35 mL | CCN(CC)CC | C6H15N
reactant | water | 50 mL | O | H2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | ethyl 6-bromobenzo[b]thiophene-2-carboxylate | BrC=1C=CC2=C(SC(=C2)C(=O)OCC)C1 | C11H9BrO2S
